US04466805
100 g of 2,5-diformyl-2,4-hexadiene, 1 g of ammonium nitrate, 192 g of triethoxymethane and 200 ml of dry ethanol are stirred at 20° for 48 hours; the mixture is neutralized with α-picoline; the solvent is distilled off; and, after purifying the residue by distillation, 1,1,6,6-tetraethoxy-2,5-dimethyl-2,4-hexadiene is obtained, b.p.=135°-139°/0.2 mm Hg.

reactant | 2,5-diformyl-2,4-hexadiene | 100 g | C(=O)C(C)=CC=C(C)C=O | C8H10O2
reactant | ammonium nitrate | 1 g | [N+](=O)([O-])[O-].[NH4+]
reactant | triethoxymethane | 192 g | C(C)OC(OCC)OCC | C7H16O3
reactant | α-picoline | N1=C(C=CC=C1)C | C6H7N
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 1,1,6,6-tetraethoxy-2,5-dimethyl-2,4-hexadiene | C(C)OC(C(=CC=C(C(OCC)OCC)C)C)OCC | C16H30O4
